US07935699B2
To a solution containing 1-(4-chloro-benzyl)-3-nitro-1H-pyrazole (101 mg, 0.42 mmol) in tetrahydrofuran (2 mL), anhydrous hydrazine (100 μL) was added to the clear solution. Raney nickel (˜100 mg washed 3 times with 5 mL of anhydrous tetrahydrofuran) was then added in tetrahydrofuran (300 μL). Gas evolved from the mixture and the reaction was allowed to proceed for 5 min, after which time the raney nickel was removed by filtration through a celite plug. The solvent was removed in vacuo to afford 1-(4-chloro-benzyl)-1H-pyrazol-3-ylamine as a yellow oil which was used in the following step with no further purification.

reactant | 1-(4-chloro-benzyl)-3-nitro-1H-pyrazole | 0.42 mmol, 101 mg | ClC1=CC=C(CN2N=C(C=C2)[N+](=O)[O-])C=C1 | C10H8ClN3O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | hydrazine | 100 μL | NN | H4N2
catalyst | Raney nickel | 5 mL, ˜100 mg | [Ni] | Ni
solvent | tetrahydrofuran | 300 μL | O1CCCC1 | C4H8O
product | 1-(4-chloro-benzyl)-1H-pyrazol-3-ylamine | ClC1=CC=C(CN2N=C(C=C2)N)C=C1 | C10H10ClN3
